US07812165B2
A) Ethyl [4-(2-morpholin-4-ylethoxy)phenyl]acetate.
A solution of 1 g of ethyl (4-hydroxyphenyl)acetate in 20 ml of EtOH is admixed with 2.5 g of K2CO3, 1.68 g of 4-(2-chloroethyl)morpholine hydrochloride and 0.01 g of tetrabutylammonium iodide and then heated at reflux for 5 hours. After cooling to AT, the K2CO3 is filtered off and washed with EtOH and the filtrate is concentrated under vacuum. The residue is taken up in water and extracted with AcOEt, the organic phase is washed with water and dried over MgSO4 and the solvent is evaporated under vacuum. This gives 1.5 g of the expected compound in the form of a colourless oil.

reactant | ethyl (4-hydroxyphenyl)acetate | 1 g | OC1=CC=C(C=C1)CC(=O)OCC | C10H12O3
reactant | K2CO3 | 2.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 1.68 g | Cl.ClCCN1CCOCC1
solvent | EtOH | 20 ml | CCO | C2H6O
catalyst | tetrabutylammonium iodide | 0.01 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | Ethyl [4-(2-morpholin-4-ylethoxy)phenyl]acetate | N1(CCOCC1)CCOC1=CC=C(C=C1)CC(=O)OCC | C16H23NO4
